2140-09-24 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  hypotension, hypoxemia
   24 Hour Events:
 BLOOD CULTURED - At [**2140-9-23**] 09:00 PM
   bld cx x1 peripheral
 URINE CULTURE - At [**2140-9-23**] 09:30 PM
 STOOL CULTURE - At [**2140-9-23**] 10:00 PM
 EKG - At [**2140-9-24**] 12:30 AM
   PATIENT DOES NOT SPEAK ENGLISH.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-9-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-24**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 84 (68 - 91) bpm
   BP: 84/52(58) {84/50(58) - 122/70(81)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                     82 mL
                                                                    116 mL
   PO:
             TF:
   IVF:
                                                                     82 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                    294 mL
   Urine:
                                                                     25 mL
                                                                    294 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: Cachectic, severly jaundiced male lying in bed, no intentional eye
   contact elicited, nonverbal
   [**Name (NI) **]: [**Name (NI) 5172**], PERRL, scleral icterus, b/l arcus senilus, palatal
   jaundice, JVD 8 cm
   CV: inaudible heart sounds [**2-20**] lous, course rhonchi throughout chest
   Lungs: barrel-chested, loud diffuse rhonchi
   Abd: Soft, + fluid wave, + BS
   Ext: wasted, dps 1+ b/l
   Neuro: + asterixis, unable to ascertain further
   Labs / Radiology
   129 K/uL
   11.1 g/dL
   73 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   58 mg/dL
   109 mEq/L
   147 mEq/L
   33.9 %
   21.3 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
   WBC
   21.3
   Hct
   33.9
   Plt
   129
   Cr
   0.5
   Glucose
   73
   Other labs: PT / PTT / INR:20.1/40.2/1.9, ALT / AST:192/262, Alk Phos /
   T Bili:234/45.8, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.7 mg/dL, Mg++:3.6 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   77 ESLD hypotension, hypothermia.
   Plan:
   V/Q for PE
   Echo
   B/L LENIs
   74 yo M with ETOH cirrhosis (no etoh x10y), and h/o Lung CA s/p
   lobectomy, with a 3 month history of anorexia and transferred from OSH
   after UGI bleed with decompensated liver disease, now hospital day #23
   with new hypoxia, hypotension.
   #  Hypoxia: sudden change suggests event: aspiration from newly
   restarted tube feeds, PE given coagulopathy from liver disease, opening
   of PFO due to worsening liver failure, or pneumonia.   CXR with
   diminished lung markings on left likely due to RLL lobectomy and
   appears similar to prior films, but otherwise no infiltrate. Does not
   appear to be significantly positional such as platypsea.
         Slowly advance tube feeds
         B/L LE Doppler, V/Q scan when stabilized
         ECHO with bubble to examine for shunting
         Continue on 02 to keep 02 sat> 92%
   #  Hypotension: resolved with 1 liter of fluid, likely in response to
   acute event that causes hypoxia
         continue to monitor
         gentle boluses to maintain pressure in 90s
   #  Hypothermia: may be evidence of infection given leukocytosis.
   Leukocytosis long-standing, but recent rise to 18 responded to empiric
   CTX for SBP.  Multiple urine cx have been negative, cdiff negative *2.
   CXR w/o signs of infection. [**Month (only) 60**] also be centrally mediated due to liver
   failure or due to cachetic male in thin gown in cold hospital.
     * Cultures pending
     * Monitor (only 1 episode)
   # Leukocytosis: variable but elevated for over 1 week. Improved
   starting CTX for presumed SBP. All other cx negative
         Cultures pending
         Assume treatment for SBP with no other source
 bedside u/s
   to determine if paracentesis possible
 otherwise will continue to
   treat for SBP with ctx and albumin
   #  Acute on Chronic Change in MS - Patient less oriented over past 5
   days ([**9-19**] - [**9-23**]) according to the patients wife. Now on restraints.
   Leukocytosis, now back to 12 from 18. CXR no new infiltrate. UCx neg.
   BCx NGTD. Increasing LFTs. Stooling 5x yesterday on lactulose.  Likely
   [**2-20**] infection with worsening hepatic encephalopathy.
         CTX started [**9-20**], continue
         f/u cultures for source
         continue lactulose
         add rifaxamin
   #  Anorexia- Dobhoff now back in after being pulled 2 days ago, TF
   restarted this am. His 3mo (also jaundice correlates with this timing)
   likely [**2-20**] Etoh cirrhosis, no sign of malignancy on bx or CT abdomen.
   EGD small varices and gastritis, no obvious obstruction. Chest CT
   unrevealing for Lung CA recurrence. Pt was getting 1728 kcal, 78g
   protein per day via TF - tube feeds at goal currently.
         Slowly advance tube feeds
         continue Reglan 5mg TID
         d/c Ritalin 5mg
   #. [**Name (NI) 5120**] Unclear etiology likely ETOH.- Tbili cont to and more
   encephalopathic A&Ox0-1 (CXR [**9-19**] negative for PNA).
         Continue Ursodiol
         Lactulose 45 TID monitoring # BM
         d/c lasix and spironolactone in setting of hypotension
   #. H/o Lung CA s/p R lobectomy transferred from OSH with suplemental
   O2. T2,N1 and never received chemo for nodes. No nodes on CT.
   ICU Care
   Nutrition: tube feeds as advised by nutrition consult
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-23**] 10:00 PM
   Prophylaxis:
   DVT:  pneumoboots in setting of recent GI bleed
   Stress ulcer:  PPI (gastritis)
   VAP:
   Comments:
   Communication:  Comments: Patient and his wife do not speak English.
   Daughter speaks [**Name2 (NI) 2234**].
   Code status: Full code (discussed with family many times, want patient
   to survive to see his sons who are in [**Name (NI) 4952**] and cannot enter US due to
   visa issues, not a tx candidate)
   Disposition: ICU

2140-09-24 11:11:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, ESLD, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Pt tx to MICU for hypotensin and worsening hypoxemia.
   24 Hour Events:
 BLOOD CULTURED - At [**2140-9-23**] 09:00 PM
   bld cx x1 peripheral
 URINE CULTURE - At [**2140-9-23**] 09:30 PM
 STOOL CULTURE - At [**2140-9-23**] 10:00 PM
 EKG - At [**2140-9-24**] 12:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-9-23**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Psychiatric / Sleep: encephalopathic
   Flowsheet Data as of  [**2140-9-24**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.5
   HR: 84 (68 - 91) bpm
   BP: 101/57(67) {80/49(57) - 122/70(81)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                     77 mL
                                                                    460 mL
   PO:
             TF:
   IVF:
                                                                     77 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                    754 mL
   Urine:
                                                                     25 mL
                                                                    754 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     52 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Gen: cachetic lying in bed,
   CV: RR
   Chest: clear to ausc anteriorly
   ABd: distended, mild tenderness to deep palp
   Ext: cachetic, no edema
   Neuro: responsive only to significant tactile stimuli
   Labs / Radiology
   11.1 g/dL
   129 K/uL
   73 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   58 mg/dL
   109 mEq/L
   147 mEq/L
   33.9 %
   21.3 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
   WBC
   21.3
   Hct
   33.9
   Plt
   129
   Cr
   0.5
   Glucose
   73
   Other labs: PT / PTT / INR:20.1/40.2/1.9, ALT / AST:192/262, Alk Phos /
   T Bili:234/45.8, Differential-Neuts:88.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:9.7 mg/dL, Mg++:3.6 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Unfortunate and complicated 74 yr old gentleman with progressive
   hepatic failure who was transferred to MICU for worsening hypoxemia and
   hypotension overnight.
   1. Hypoxemia: Initially profound of the floor but is actually improving
   today.
   DDx: PE
 LENIs negative, will get VQ,
            Shunt: echo w/ bubble to look for ASD VSD large PFO
   Another possibiolity is that he had a sign aspiration event and though
   CXR is unimpressive given his little reserve this accounts for profound
   hypoxemia. Certainly would fit with the sense that his O2 requirements
   are less this AM- though we need to change to Venti mask to try to
   quantify this.
   2. Hypotension: SBP has remained in 90s after gentle IVF out on floor.
   Looks like he has been in that range on floor over past 48 hrs.
   Possible he was hypovolemic with poor pos but as outlined below brewing
   sepsis is also of concern.
   2. Leukocytosis: also had transient hypothermia overnight, certainly at
   risk for infection and we have pan cultured
   Sources: Asp PNA -  CXr not really impressive but could lag, will add
   Flagyl to his Ceftriaxone
                  SBP change to full Rx dosing of Ceftriaxone.  We can
   repeat US to see if there is a tappable pocket but previously this had
   been not amenable.
                  Follow up blood and urine and C diff (empiric Flagyl
   while waiting)
   3. Mental Status: worsened on the floor, presumed encephalopathy,
   increased lactulose would not give anti psychotics
   Discuss with Hepatology role of Rifaxamin
   4. GI bleed: HCt has been stable< PPI
   ICU Care
   Nutrition: TFs restart
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-23**] 10:00 PM
   Prophylaxis:
   DVT: sc hep boots
   Stress ulcer: PPI
   Communication:  extesnsive meeting w. family and SW were ongoing on the
   floor. Without transplant his prognosis is terminal. Family would like
   to try to gets sons here from [**Name (NI) 4952**] but VISA has been an issue. We will
   meet again to try to explore limitations to levels of aggressive care
   in this situation.
   Code status: Full code
   Disposition : ICU
   Total time spent: 40
   Patient is critically ill

2140-09-25 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   pulled [**Last Name (un) 5180**]-hoff
   mentating somewhat in Punjabi
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-9-24**] 01:03 PM
   Metronidazole - [**2140-9-25**] 01:20 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-9-24**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-25**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.4
C (95.8
   HR: 85 (72 - 87) bpm
   BP: 98/57(66) {66/36(43) - 115/68(75)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,755 mL
                                                                    173 mL
   PO:
             TF:
                                                                     85 mL
                                                                      2 mL
   IVF:
                                                                  1,100 mL
                                                                    172 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,624 mL
                                                                    390 mL
   Urine:
                                                                  1,924 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -869 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 89%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.9 g/dL
   82 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   59 mg/dL
   114 mEq/L
   150 mEq/L
   30.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
                             [**2140-9-25**]  03:13 AM
   WBC
   21.3
   10.5
   Hct
   33.9
   30.2
   Plt
   129
   100
   Cr
   0.5
   1.0
   Glucose
   73
   82
   Other labs: PT / PTT / INR:21.5/51.6/2.0, ALT / AST:152/184, Alk Phos /
   T Bili:167/52.3, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:10.0 mg/dL, Mg++:3.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   77 ESLD hypotension, hypothermia.
   Plan:
   V/Q for PE
   Echo
   B/L LENIs
   74 yo M with ETOH cirrhosis (no etoh x10y), and h/o Lung CA s/p
   lobectomy, with a 3 month history of anorexia and transferred from OSH
   after UGI bleed with decompensated liver disease, now hospital day #23
   with new hypoxia, hypotension.
   #  Hypoxia: sudden change suggests event: aspiration from newly
   restarted tube feeds, PE given coagulopathy from liver disease, opening
   of PFO due to worsening liver failure, or pneumonia.   CXR with
   diminished lung markings on left likely due to RLL lobectomy and
   appears similar to prior films, but otherwise no infiltrate. Does not
   appear to be significantly positional such as platypsea.
         Slowly advance tube feeds
         B/L LE Doppler, V/Q scan when stabilized
         ECHO with bubble to examine for shunting
         Continue on 02 to keep 02 sat> 92%
   #  Hypotension: resolved with 1 liter of fluid, likely in response to
   acute event that causes hypoxia
         continue to monitor
         gentle boluses to maintain pressure in 90s
   #  Hypothermia: may be evidence of infection given leukocytosis.
   Leukocytosis long-standing, but recent rise to 18 responded to empiric
   CTX for SBP.  Multiple urine cx have been negative, cdiff negative *2.
   CXR w/o signs of infection. [**Month (only) 60**] also be centrally mediated due to liver
   failure or due to cachetic male in thin gown in cold hospital.
   Cultures pending
   Monitor (only 1 episode)
   # Leukocytosis: variable but elevated for over 1 week. Improved
   starting CTX for presumed SBP. All other cx negative
         Cultures pending
         Assume treatment for SBP with no other source
 bedside u/s
   to determine if paracentesis possible
 otherwise will continue to
   treat for SBP with ctx and albumin
   #  Acute on Chronic Change in MS - Patient less oriented over past 5
   days ([**9-19**] - [**9-23**]) according to the patients wife. Now on restraints.
   Leukocytosis, now back to 12 from 18. CXR no new infiltrate. UCx neg.
   BCx NGTD. Increasing LFTs. Stooling 5x yesterday on lactulose.  Likely
   [**2-20**] infection with worsening hepatic encephalopathy.
         CTX started [**9-20**], continue
         f/u cultures for source
         continue lactulose
         add rifaxamin
   #  Anorexia- Dobhoff now back in after being pulled 2 days ago, TF
   restarted this am. His 3mo (also jaundice correlates with this timing)
   likely [**2-20**] Etoh cirrhosis, no sign of malignancy on bx or CT abdomen.
   EGD small varices and gastritis, no obvious obstruction. Chest CT
   unrevealing for Lung CA recurrence. Pt was getting 1728 kcal, 78g
   protein per day via TF - tube feeds at goal currently.
         Slowly advance tube feeds
         continue Reglan 5mg TID
         d/c Ritalin 5mg
   #. [**Name (NI) 5120**] Unclear etiology likely ETOH.- Tbili cont to and more
   encephalopathic A&Ox0-1 (CXR [**9-19**] negative for PNA).
         Continue Ursodiol
         Lactulose 45 TID monitoring # BM
         d/c lasix and spironolactone in setting of hypotension
   #. H/o Lung CA s/p R lobectomy transferred from OSH with suplemental
   O2. T2,N1 and never received chemo for nodes. No nodes on CT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-23**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-25 08:19:00 Physician Attending Progress Note
Chief Complaint: hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Waxing and [**Doctor Last Name 42**] mental status
   Pulled out Dophoff
   Episode of hypotension to 70s
 bolus x 250 with good response
   Empiric Flagyl
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-9-24**] 01:03 PM
   Metronidazole - [**2140-9-25**] 07:59 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-9-24**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-25**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 34.8
C (94.7
   HR: 77 (72 - 87) bpm
   BP: 112/55(67) {66/36(43) - 115/68(75)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,755 mL
                                                                    304 mL
   PO:
             TF:
                                                                     85 mL
                                                                      2 mL
   IVF:
                                                                  1,100 mL
                                                                    302 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  2,624 mL
                                                                    490 mL
   Urine:
                                                                  1,924 mL
                                                                    490 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                   -869 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: lying in bed, cachetic, profoundly jaundiced, eys open tracking
   non verbal
   CV: RR
   Chest: fair air movement
   Abd:distended + BS no pain with deep palp today + fluid wave
   Ext:wasted no edema
   Labs / Radiology
   9.9 g/dL
   100 K/uL
   82 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   59 mg/dL
   114 mEq/L
   150 mEq/L
   30.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
                             [**2140-9-25**]  03:13 AM
   WBC
   21.3
   10.5
   Hct
   33.9
   30.2
   Plt
   129
   100
   Cr
   0.5
   1.0
   Glucose
   73
   82
   Other labs: PT / PTT / INR:21.5/51.6/2.0, ALT / AST:152/184, Alk Phos /
   T Bili:167/52.3, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:2.9 g/dL,
   Ca++:10.0 mg/dL, Mg++:3.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Unfortunate and complicated 74 yr old gentleman with progressive
   hepatic failure who was transferred to MICU for worsening hypoxemia and
   hypotension overnight.
   1. Hypoxemia: Initially profound of the floor but is actually improved
   and then plateaued.
   DDx: PE
 LENIs negative
 can
t participate in VQ which had been
   planned (can
t follow commands to hold breath) Can get CTA with ARF.
   Echo not able to eval RV. At this pioint with stable oxygenation would
   not empirically anti coag
 would need to reconsider should he
   deteriorate.
   -Shunt: echo w/ bubble to look for ASD VSD large PFO or late bubbles
   consistent with pulmonary shunt, ut pt could not stay still.
   -Another possibility is that he had a significant aspiration event on
   top of poor reserve This mauy indeed be most likely.
   Needs repeat CXR this AM.
   2. Hypotension: SBP has remained in 90s after gentle IVF out on floor.
   D/C
s lasix and Spironolactone.  Albumin and low dose fluid bolus
   responsive. Suspect dehydration was a component initioally but with
   leukocytosis and hypitheranmia evolving sepsis always concern.
   3. Hypothermia/Leukocytosis: cachetic and potentially infected. Sources
   CXR not really impressive but could lag, will add Flagyl to his
   Ceftriaxone. SBP change to full Rx dosing of Ceftriaxone. Follow up
   blood and urine and C diff (empiric Flagyl while waiting). Empiric
   VAnco added while await cx data since he has been in hsopiatl for 4 wks
   and is at risk for MRSA infection.
   4. ARF: CR doubled overnight- still making urine- could be evolving ATN
   after hypotenion or early hepatorenal. Watch UOP, repleat CR and send
   urine lytes. Recalc GFR and adjust meds accordingly.
   5. Mental Status: worsened on the floor, presumed encephalopathy,
   increased lactulose would not give anti psychotics. Discuss with
   Hepatology role of Rifaxamin
   6. GI bleed: HCt has been stable< PPI
   ICU Care
   Nutrition: replace dophoff vs NGT
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-23**] 10:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   \Communication:  A major issue in this case is goals of care. Liver
   team ahs told family he has near terminal end stage liver disease and
   he is not a transplant candidate. Yet they still are hopeful and want
   to wait for sons from [**Name (NI) 4952**] to come to US. It appears this could take
   weeks to arrange. We need to set up family meeting for tomorrow with
   interpreter, wife, daughter and dtr in law [**Name (NI) **] social worker to
   review his situation.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2140-09-26 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Early yesterday, pt was hypotensive to 60s/30s.  Gave fluid and
   albumin with good results.  Was 100s-110s/40s-50s
 One CXR suggested slight PTX, but because he was clinically stable,
   repeated film, and PTX was no longer seen.
 Full code at this time; family meeting with [**Hospital Ward Name 790**] 10 social worker
   this afternoon
   -Tried lactulose enema
 questionable results
   -repleted K+, gave free H20 for hypernatremia
   -liver service following, suggest family meeting and treating
   hypernatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2140-9-25**] 12:03 PM
   Vancomycin - [**2140-9-25**] 01:03 PM
   Metronidazole - [**2140-9-25**] 04:33 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-25**] 10:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-26**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 80 (57 - 85) bpm
   BP: 115/46(55) {61/36(27) - 120/73(85)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,947 mL
                                                                    820 mL
   PO:
             TF:
                                                                      2 mL
   IVF:
                                                                  2,445 mL
                                                                    820 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  1,340 mL
                                                                    170 mL
   Urine:
                                                                  1,240 mL
                                                                    170 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,607 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen:  Poorly responsive, NAD.  Closes eyes tightly when I try to
   examine pupils.
   Derm:  Jaundiced.
   HEENT:  Icteric sclerae.  PERRL.
   Lung:  Vesicular breath sounds throughout.  Decreased breath sounds on
   right.
   CV:  JVP not seen.  Irregular rhythm (ventricular bigeminy on
   monitor).  Regular rate.  Very quiet heart sounds.
   Abd:  Normal bowel sounds.  Mildly distended with soft ascites.  Soft.
   Non-tender.
   Ext:  No LE edema.
   Neuro:  Moves all 4 extremities although minimally moves RUE.
   Labs / Radiology
   99 K/uL
   9.3 g/dL
   120 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   47 mg/dL
   117 mEq/L
   150 mEq/L
   27.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
                             [**2140-9-25**]  03:13 AM
                             [**2140-9-25**]  05:24 PM
                             [**2140-9-26**]  03:07 AM
   WBC
   21.3
   10.5
   9.2
   Hct
   33.9
   30.2
   27.8
   Plt
   129
   100
   99
   Cr
   0.5
   1.0
   0.5
   0.5
   Glucose
   73
   82
   99
   120
   Other labs: PT / PTT / INR:20.6/48.3/1.9, ALT / AST:117/141, Alk Phos /
   T Bili:128/50.4, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:4.1 mmol/L, Albumin:3.4 g/dL,
   LDH:409 IU/L, Ca++:10.0 mg/dL, Mg++:3.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74 yo M with ETOH cirrhosis (no etoh x10y), and h/o Lung CA s/p
   lobectomy, with a 3 month history of anorexia and transferred from OSH
   after UGI bleed with decompensated liver disease, now hospital day #24
   with new hypoxia, hypotension.
   # Hypothermia with resolved? leukocytosis: concerning for sepsis.
   Treating for SBP with ctx, Flagyl, and albumin.  Added vancomycin.
   -          f/u cultures
   -          repeat CXR
   -          warming blanket
   #  Hypoxia: sudden change suggests event: aspiration from newly
   restarted tube feeds, PE given coagulopathy from liver disease, opening
   of PFO due to worsening liver failure, or pneumonia.   CXR with
   diminished lung markings on left likely due to RLL lobectomy and
   appears similar to prior films, but otherwise no infiltrate. Does not
   appear to be significantly positional such as platypsea.  Sats good
   over past 24 hours on ventimask.
   -recheck CXR
   -Continue oxygenation via ventimask
   -check pulsus
   #  Hypotension:  Responded well to fluids.  [**Month (only) 60**] be [**2-20**] sepsis, although
   hypovolemic shock is in differential, especially given hematocrit
   drop.  Hypocortisolism also in differential.
   -goal SBP in 90s
   -can use fluids cautiously to maintain pressure
   -consent for blood
   -type and screen
   -guaiac stools
   -cosyntropin stimulation test
   # Hypernatremia:  Sodium unchanged from yesterday at 150 despite
   administration of 1L of D5W.  Free water deficit approximately 3 L.
   Will need to administer more free water today.  Can give additional
   free water via Dobhoff now that this is available.
   -D5W 1 L over 5 hours
   -free water flushes 150 mL via feeding tube Q4H.
   -recheck chemistries this p.m.
   #  Acute on Chronic Change in MS - Patient less oriented over past 5
   days ([**9-19**] - [**9-23**]) according to the patients wife. Now on restraints.
   Leukocytosis, now back to 9.2 from 18. CXR no new infiltrate. UCx neg.
   BCx NGTD. Increasing LFTs. Likely [**2-20**] infection with worsening hepatic
   encephalopathy.
         f/u cultures
         continue lactulose and rifaximin (can resume PO lactulose now
   that Dobhoff is in)
   #  Anorexia- Dobhoff pulled.  Pt was getting 1728 kcal, 78g protein per
   day via TF - tube feeds at goal currently.
         Dobhoff replaced.  Restart tube feeds.
   #. [**Name (NI) 5120**] Unclear etiology likely ETOH.- Tbili cont to rise and more
   encephalopathic A&Ox0-1 (CXR [**9-19**] negative for PNA).  Lasix and
   spironolactone d/c
d in setting of hypotension.
         Continue Ursodiol
         Lactulose 30 mL TID monitoring # BM
   #. Increased creatinine - Creatinine rose yesterday concerning for
   hepatorenal syndrome, but this is back to baseline today, suggesting
   intravascular volume depletion as the cause.
   -continue to follow renal function
   -maintain blood pressure and urine output
   #. H/o Lung CA s/p R lobectomy transferred from OSH with suplemental
   O2. T2,N1 and never received chemo for nodes. No nodes on CT.
   # Hypophosphatemia
   -replete phos
   #?Hypercalemia
 Total calcium unreliable in setting of critical
   illness.
   -check ionized calcium
   ICU Care
   Nutrition:  Feeding via Dobhoff.  Thiamine, MVI, folate, B12.
   Glycemic Control:  Glycemic control has been good.  Continue to
   monitor.
   Lines:  PIV x 3
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-25**] 02:35 PM
   20 Gauge
   Prophylaxis:
   DVT: Pneumoboot while in bed.
   Stress ulcer:  Pantoprazole 40 mg IV Q24H
   VAP:
   Comments:
   Communication:  Comments: wife, daughter, family meeting today.
   Code status: Full code
   Disposition: ICU
   This note was written by [**First Name8 (NamePattern2) 297**] [**Last Name (NamePattern1) 5186**], HMS IV, to be cosigned by the
   on-call resident.

2140-09-27 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family meeting at 5PM, now DNR/DNI, main goal is getting brothers over
   to see from [**Name (NI) 4952**].
   Dobhoff tube replaced by Fluoro
   Did not attempt to wean O2
 SaO2 was 93% on 35% ventimask
   1 U PRBC given
   Guiac neg
   Ectopy, bigemeny during PM -> EKG unchanged
   [**Last Name (un) **] stim test
   Vanc held for level, will recheck
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-9-26**] 12:00 PM
   Ceftriaxone - [**2140-9-26**] 12:45 PM
   Metronidazole - [**2140-9-26**] 04:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Complaining of itching.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-27**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 71 (62 - 80) bpm
   BP: 113/55(69) {82/36(49) - 116/60(74)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  3,085 mL
                                                                    366 mL
   PO:
                  TF:
                                                                    180 mL
                                                                    107 mL
   IVF:
                                                                  2,410 mL
   Blood products:
                                                                    225 mL
                                                                    230 mL
   Total out:
                                                                    685 mL
                                                                    750 mL
   Urine:
                                                                    685 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,400 mL
                                                                   -384 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Gen:  NAD.  More alert than yesterday.
   HEENT:  Icteric sclerae.  Pupils 3-4 mm and minimally reactive.
   Resp:  Bronchial breath sounds throughout.  Decreased breath sounds on
   right.  Minimal inspiratory rales posteriorly.
   CV:  JVP not elevated.  RRR.  Quiet heart sounds.
   Abd:  Bowel sounds present.  Mildly distended with soft ascites.
   Non-tender.  Liver and spleen not palpated.
   Ext:  Radial and PT pulses 2+ bilaterally.  No tenderness of evidence
   of inflammation of LLE.
   Skin:  Icteric.  No rashes.
   Neuro:  More alert than yesterday.  Moving all 4 extremities.
   Access:  PIV x 3 (22 gauge, 20 gauge x 2)
   Labs / Radiology
   75 K/uL
   9.6 g/dL
   119 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   33 mg/dL
   113 mEq/L
   144 mEq/L
   28.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
                             [**2140-9-25**]  03:13 AM
                             [**2140-9-25**]  05:24 PM
                             [**2140-9-26**]  03:07 AM
                             [**2140-9-26**]  10:39 PM
                             [**2140-9-27**]  03:48 AM
   WBC
   21.3
   10.5
   9.2
   7.8
   Hct
   33.9
   30.2
   27.8
   24.1
   28.1
   Plt
   129
   100
   99
   75
   Cr
   0.5
   1.0
   0.5
   0.5
   Glucose
   73
   82
   99
   120
   115
   119
   Other labs: PT / PTT / INR:20.7/44.5/2.0, ALT / AST:85/107, Alk Phos /
   T Bili:102/50.3, Differential-Neuts:75.1 %, Band:2.0 %, Lymph:19.8 %,
   Mono:3.4 %, Eos:1.4 %, Fibrinogen:152 mg/dL, Lactic Acid:4.1 mmol/L,
   Albumin:4.0 g/dL, LDH:384 IU/L, Ca++:10.2 mg/dL, Mg++:2.9 mg/dL,
   PO4:2.8 mg/dL
   Cosyntropin stimulation test:  cortisol pre/post-stim = 16.0/25.2
   Hapto <20
   Vanco 38.6 at 10:39 p.m. on [**2140-9-26**]
   Fibrinogen 152
   Assessment and Plan
   74 yo M with ETOH cirrhosis (no etoh x10y), and h/o Lung CA s/p
   lobectomy, with a 3 month history of anorexia and transferred from OSH
   after UGI bleed with decompensated liver disease, transferred to MICU
   with new hypoxia, hypotension.
   # Hypothermia with resolved leukocytosis: concerning for sepsis.
   Treating for SBP with ctx, Flagyl, and albumin.  Added vancomycin,
   although this has been held due to supratherapeutic levels.
   Hypothermia improving, with Tmin 35.7 during past 24 hours.  No obvious
   focus for infection.  Blood cultures pending.
          -      continue ceftriaxone and Flagyl for now.  Will complete
   ceftriaxone on [**9-28**].
   -      f/u vanco level
   -      d/c vanco until level decreases to therapeutic range.  Will then
   restart at lower dose.
   -      f/u cultures
   -          warming blanket
   #  Hypoxia: sudden change suggests event: aspiration from newly
   restarted tube feeds, PE given coagulopathy from liver disease, opening
   of PFO due to worsening liver failure, or pneumonia.   CXR with
   diminished lung markings on left likely due to RLL lobectomy and
   appears similar to prior films, but otherwise no infiltrate. Does not
   appear to be significantly positional such as platypsea.  Sats good
   over past 24 hours on ventimask.
   -recheck CXR tomorrow
   -Continue oxygenation via ventimask
   #  Hypotension:  Responded well to fluids.  [**Month (only) 60**] be [**2-20**] sepsis, although
   hypovolemic shock is in differential, especially given hematocrit
   drop.  Guaiac negative.  Consented for blood.  Received albumin and 1
   unit PRBC during past 24 hours.  Cosyntropin stimulation test not
   consistent with hypocortisolism.  Likely etiology of hypotension is
   ESLD, with a possible infectious component, being treated empirically
   as noted above under hypothermia.
   -goal SBP in 90s
   -can use colloid and crystalloid cautiously to maintain pressure
   -guaiac stools
   # Hypernatremia:  Sodium improved to 144 following administration of 1L
   of D5W and free water flushes of Dobhoff at 200 cc Q4H.  Free water
   deficit now < 1 L.
   -D5W 500 cc over 5 hours
   -free water flushes 200 mL via feeding tube Q4H.
   -recheck chemistries tomorrow a.m.
   #  Acute on Chronic Change in MS - Patient less oriented beginning
   during 5 days prior to admission to MICU ([**9-19**] - [**9-23**]) according to the
   patients wife. Now on restraints due to risk of pulling Dobhoff tube.
   Leukocytosis now resolved. CXR no new infiltrate. UCx neg. BCx NGTD.
   Increasing LFTs. Likely [**2-20**] infection with worsening hepatic
   encephalopathy.
         f/u cultures
         continue lactulose
   .         ?restart rifaxamin
   #  Cachexia- Dobhoff in place.  Pt was getting 1728 kcal, 78g protein
   per day via TF.  Tube feeds currently at 20 cc/hour.
         Nutrition consult for updated recommendations.
   #. [**Name (NI) 5120**] Unclear etiology likely ETOH.- Tbili cont to rise and more
   encephalopathic A&Ox0-1 (CXR [**9-19**] negative for PNA).  Lasix and
   spironolactone d/c
d in setting of hypotension.
         Continue Ursodiol
         Lactulose 30 mL TID monitoring # BM
   .         Appreciate hepatology recs.
   #. H/o Lung CA s/p R lobectomy transferred from OSH with suplemental
   O2. T2,N1 and never received chemo for nodes. No nodes on CT.
   #.Hypermagnesemia
 Renal function good.  [**Month (only) 60**] be related to
   supplemental tube feeds although the level of Mg in the tubes feeds is
   less than the level that an individual with normal kidneys should be
   able to secrete.  Will confirm this with nutrition.  Ddx of
   hypermagnesemia includes sepsis, hypothyroidism, hypothermia.
   -f/u nutrition recs.
   -ask nutrition if we can give tube feeds that do not have Mg .
   #.Anemia
 Hct trending down during past 2 days.  Could be related to
   hemodilution with administration of albumin, but bleeding and hemolysis
   also in differential.  No clinical evidence of bleeding.  Guaiac
   negative.  Tranfused 1 unit this morning with good rise in Hct.
   -repeat guiaic
   -f/u Coomb
s test for hemolysis
   -consented for blood
   -f/u CBC in a.m.
   #.Pruritis
 Patient
s wife notes that the patient has been itchy, and
   has some areas of excoriation and dry skin.
   -Sarna lotion PRN
   ICU Care
   Nutrition:  Feeding via Dobhoff tube per nutrition recs.  MVI, folate,
   B12, thiamine.  Speech and swallow to evaluate and make recommendations
   today.
   ProBalance (Full) - [**2140-9-26**] 01:00 PM 20 mL/hour
   Glycemic Control:  Blood glucose 97-157 during past 24 hours (higher
   levels in setting of cosyntropin test).
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-25**] 02:35 PM
   20 Gauge
   Prophylaxis:
   DVT: Pneumoboot while in bed.  OOB to chair as tolerated.
   Stress ulcer: Pantoprazole 40 mg IV Q24H.
   VAP:
   Comments:
   Communication:  Comments: With patient and wife via interpreter, to
   come at 3:30 p.m. today.  Daughter [**Name (NI) 5123**] (h) [**Telephone/Fax (1) 5256**], daughter cell
   [**Telephone/Fax (1) 5125**] (w) [**Telephone/Fax (1) 5126**] or [**Telephone/Fax (1) 5257**].
   Code status: DNR / DNI per family meeting yesterday
   Disposition: Call out to floor.
   07:48

2140-09-27 09:47:00 Physician Attending Progress Note
Chief Complaint: liver failure, hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting last night (see my note)
   Social work contact[**Name (NI) **] and will work to help relatives come from [**First Name5 (NamePattern1) **]
   [**Name (NI) **] tube replaced by Fluoro
   1 U PRBC given
   Guiac neg
   Much more alert this morning; some hip discomfort.
   History obtained from Family / [**Hospital 56**] Medical records, ICU team
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2140-9-26**] 12:00 PM
   Ceftriaxone - [**2140-9-26**] 12:45 PM
   Metronidazole - [**2140-9-26**] 04:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-27**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 77 (62 - 80) bpm
   BP: 109/65(77) {82/36(49) - 117/65(77)} mmHg
   RR: 22 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
                  Total In:
                                                                  3,085 mL
                                                                    477 mL
   PO:
                  TF:
                                                                    180 mL
                                                                    120 mL
   IVF:
                                                                  2,410 mL
   Blood products:
                                                                    225 mL
                                                                    327 mL
   Total out:
                                                                    685 mL
                                                                    820 mL
   Urine:
                                                                    685 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,400 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.6 g/dL
   75 K/uL
   119 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.0 mEq/L
   33 mg/dL
   113 mEq/L
   144 mEq/L
   28.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2140-9-24**]  03:37 AM
                             [**2140-9-25**]  03:13 AM
                             [**2140-9-25**]  05:24 PM
                             [**2140-9-26**]  03:07 AM
                             [**2140-9-26**]  10:39 PM
                             [**2140-9-27**]  03:48 AM
   WBC
   21.3
   10.5
   9.2
   7.8
   Hct
   33.9
   30.2
   27.8
   24.1
   28.1
   Plt
   129
   100
   99
   75
   Cr
   0.5
   1.0
   0.5
   0.5
   Glucose
   73
   82
   99
   120
   115
   119
   Other labs: PT / PTT / INR:20.7/44.5/2.0, ALT / AST:85/107, Alk Phos /
   T Bili:102/50.3, Differential-Neuts:75.1 %, Band:2.0 %, Lymph:19.8 %,
   Mono:3.4 %, Eos:1.4 %, Fibrinogen:152 mg/dL, Lactic Acid:4.1 mmol/L,
   Albumin:4.0 g/dL, LDH:384 IU/L, Ca++:10.2 mg/dL, Mg++:2.9 mg/dL,
   PO4:2.8 mg/dL
   Assessment and Plan
   Complicated case of a 74-year-old man with progressive hepatic failure
   and end-stage liver disease, brought to the MICU for hypotension and
   hypoxemia, both of which have improved.  His mental status today is
   substantially better than yesterday.
   Hypoxemia
   Seems to have improved.
   Differential is broad and includes aspiration, PE (less likely), shunt
   (intracardiac or hepato-pulmonary).  Seems most likely related to
   aspiration given overall clinical course.
   Hypotension
   Some component appears to have been hypovolemic. [**Month (only) 60**] have low SVR in
   setting of ESLD as well. Sepsis is not fully excluded, and we have been
   treating empirically.
   Complete course for SBP and for presumptive aspiration pneumonia, then
   convert to SBP prophylaxis doses.
   Acute renal failure
   Resolved
   Mental Status
   Presumed encephalopathy and hypernatremia -- improved
   Anemia
   Likely mixed picture with some hemolysis, some blood loss, and some
   decreased production.
   Follow-up Coomb
s test.
   Follow Hct
   Hypernatremia
   Improving.  Repleting free water.
   Communication
   Family meetings with interpreter on a daily basis (and with patient if
   his mental status improves enough)
   Social work consult to help with family immigration issues
   Code Status
   DNR/DNI/no pressors.  Family believes patient would want no further
   painful procedures, but otherwise aggressive care to try to extend his
   survival until family arrives from [**Country 4952**].
   See my family meeting note from [**2140-9-26**]
   [**Hospital **]
   Transfer to [**Hospital Ward Name 790**] 10
   ICU Care
   Nutrition: tube feeds
   Lines:
   22 Gauge - [**2140-9-23**] 07:40 PM
   20 Gauge - [**2140-9-25**] 02:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor